US08097348B2
To a stirred solution of activated magnesium flakes (3.11 g, 0.128 mol) and a crystal of iodine, 2-bromomesitylene (23.40 g, 0.118 mol) in THF (80 cm3) was added dropwise at room temperature. The reaction was allowed to reflux for 3 hours. After the reaction mixture was cooled, it was added dropwise to an ether solution (80 cm3) of trimethoxyborane (26 cm3, 0.229 mol) at −15° C. The reaction stirred at −15° C. for 3 hours and then was warmed up to room temperature and left to stir overnight. The solution was then filtered under argon and the precipitated salts were washed with dry pentane (20 cm3). The filtrates were combined, concentrated and distilled under vacuum to give the desired dimethoxymesitylborane. 1H NMR (200 MHz, CDCl3) δ 2.28 (s, 6H), 2.30 (s, 3H), 3.58 (s, 6H), 6.84 (s, 2H).

reactant | magnesium | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-bromomesitylene | 0.118 mol, 23.40 g | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | trimethoxyborane | 0.229 mol, 26 cm3 | COB(OC)OC | C3H9BO3
solvent | THF | 80 cm3 | C1CCOC1 | C4H8O
solvent | ether | 80 cm3 | CCOCC | C4H10O
product | dimethoxymesitylborane | COB(C1=C(C=C(C=C1C)C)C)OC | C11H17BO2
